US06992103B2
2-Fluoro-3-(2-oxopyrrolidin-1-yl)-5-trifluoromethylbenzoic acid methyl ester (D24)
3-Bromo-2-fluoro-5-trifluoromethylbenzoic acid methyl ester (500 mg, 1.95 mmol)), caesium carbonate (950 mg, 2.92 mmol), pyrrolidin-2-one (248 mg, 2.92 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (68 mg, 0.117 mmol) and tris(dibenzylideneacetone)dipalladium (0) (36 mg, 0.039 mmol) were refluxed under argon in dioxane (7 ml) for 18 h. After cooling, the mixture was filtered and evaporated in vacuo. Column chromatography on silica gel eluting with a gradient of 20–50% ethyl acetate in hexane gave a mixture of D24 and 3-chloro-2-(2-oxopyrrolidin-1-yl)-5-trifluoromethylbenzoic acid methyl ester (195 mg).

reactant | 3-Bromo-2-fluoro-5-trifluoromethylbenzoic acid methyl ester | 1.95 mmol, 500 mg | COC(C1=C(C(=CC(=C1)C(F)(F)F)Br)F)=O | C9H5BrF4O2
reactant | caesium carbonate | 2.92 mmol, 950 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrrolidin-2-one | 2.92 mmol, 248 mg | N1C(CCC1)=O | C4H7NO
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.117 mmol, 68 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 3-chloro-2-(2-oxopyrrolidin-1-yl)-5-trifluoromethylbenzoic acid methyl ester | 195 mg | COC(C1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(CCC1)=O)=O | C13H11ClF3NO3
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.039 mmol, 36 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Fluoro-3-(2-oxopyrrolidin-1-yl)-5-trifluoromethylbenzoic acid methyl ester | COC(C1=C(C(=CC(=C1)C(F)(F)F)N1C(CCC1)=O)F)=O | C13H11F4NO3
